US08133882B2
169 mg of sodium triacetoxyborohydride was added to a mixed solution 10 ml of 1,2-dichloroethane and 0.05 ml of acetic acid of 142 mg 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde and 66 mg of 4-aminophenol, followed by stirring for 24 hours. Aqueous saturated sodium hydrogen carbonate was added thereto, followed by extraction with chloroform. After drying over anhydrous sodium sulfate and subsequent filtration, concentration under a reduced pressure was carried out. The resulting residue was purified by silica gel column chromatography and then crystallized from ethyl acetate to obtain 46 mg of [7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-{[(4-hydroxyphenyl)amino]methyl}quinolin-4(1H)-one.

reactant | sodium triacetoxyborohydride | 169 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 142 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C=O)=O)F | C21H25FN2O2
reactant | 4-aminophenol | 66 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-{[(4-hydroxyphenyl)amino]methyl}quinolin-4(1H)-one | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CNC1=CC=C(C=C1)O)=O)F | C27H32FN3O2
